US09062070B2
Step C: tert-butyl(3S)-4-[2-(5-cyano-2,4-difluorophenyl)-2-oxoethyl]-3-(hydroxymethyl)piperazine-1-carboxylate
A suspension of 5-(bromoacetyl)-2,4-difluorobenzonitrile (2.5 g, 9.6 mmol), tert-butyl (3S)-3-(hydroxymethyl)piperazine-1-carboxylate (2.1 g, 9.6 mmol) and DIEA (1.90 g, 14.4 mmol) in 50 mL of THF was stirred at 20° C. for 10 hours. The reaction mixture was poured into ice water and extracted with EtOAc (3×200 mL). The combined organic layers were washed with water and brine, dried and concentrated. The residue was purified by column chromatography eluting with 5% MeOH in DCM to afford the title compound.

reactant | 5-(bromoacetyl)-2,4-difluorobenzonitrile | 9.6 mmol, 2.5 g | BrCC(=O)C=1C(=CC(=C(C#N)C1)F)F | C9H4BrF2NO
reactant | tert-butyl (3S)-3-(hydroxymethyl)piperazine-1-carboxylate | 9.6 mmol, 2.1 g | OC[C@@H]1CN(CCN1)C(=O)OC(C)(C)C | C10H20N2O3
reactant | DIEA | 14.4 mmol, 1.90 g | CCN(C(C)C)C(C)C | C8H19N
solvent | THF | 50 mL | C1CCOC1 | C4H8O
product | tert-butyl(3S)-4-[2-(5-cyano-2,4-difluorophenyl)-2-oxoethyl]-3-(hydroxymethyl)piperazine-1-carboxylate | C(#N)C=1C(=CC(=C(C1)C(CN1[C@@H](CN(CC1)C(=O)OC(C)(C)C)CO)=O)F)F | C19H23F2N3O4
